US07713979B2
Dissolve 4-oxo-4-(2-oxo-oxazolidin-3-yl)-butyraldehyde (7.35 g, 42.96 mmol) in DCE (400 mL). Add 8-methyl-1,4-dioxa-spiro[4.5]dec-8-ylamine (7.36 g, 42.96 mmol), and acetic acid (2.58 g, 42.96 mmol) at room temperature under nitrogen. Stir the solution for one hour and then add sodium triacetoxyborohydride (18.21 g, 85.92 mmol). Stir the reaction mixture for over night and then add water (400 mL). Extract the aqueous layer with dichloromethane (3×400 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 20-50% of EtOAc-Hexane) to give 0.92 g (9.0%) of 1-(8-Methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one as a colorless oil.

reactant | 4-oxo-4-(2-oxo-oxazolidin-3-yl)-butyraldehyde | 42.96 mmol, 7.35 g | O=C(CCC=O)N1C(OCC1)=O | C7H9NO4
reactant | 8-methyl-1,4-dioxa-spiro[4.5]dec-8-ylamine | 42.96 mmol, 7.36 g | CC1(CCC2(OCCO2)CC1)N | C9H17NO2
reactant | acetic acid | 42.96 mmol, 2.58 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 85.92 mmol, 18.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 400 mL | ClCCCl | C2H4Cl2
solvent | water | 400 mL | O | H2O
product | 1-(8-Methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | 0.92 g, 9.0% | CC1(CCC2(OCCO2)CC1)N1C(CCC1)=O | C13H21NO3
